US06313122B1
Preparation of 2-(4-tert-Butylbenzoylamino)-4-butylsulfonylamino-N-(4-methoxyphenyl)benzamide
Using the procedure described in Example 59, Part E, 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide (500 mg, 1.20 mmol) was reacted with butylsulfonyl chloride in the presence of triethylamine to yield 130 mg (20%) of the title compound as an off-white solid.

reactant | 2-(4-tert-butylbenzoylamino)-4-amino-N-(4-methoxyphenyl)benzamide | 1.20 mmol, 500 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)N)C=C1 | C25H27N3O3
reactant | butylsulfonyl chloride | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-(4-tert-Butylbenzoylamino)-4-butylsulfonylamino-N-(4-methoxyphenyl)benzamide | 130 mg, 20% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=O)NC3=CC=C(C=C3)OC)C=CC(=C2)NS(=O)(=O)CCCC)C=C1 | C29H35N3O5S
